US04550105
To a solution of 0.10 g of sodium (3S,4R)-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-4-phenylacetoxy-2-oxoazetidine-1-sulfonate in 7 ml of water is added number ice-cooling 0.027 g of sodium monomethyldithiocarbamate, and the mixture is stirred at room temperature for 1.5 hours. Insolubles are filtered off, and the filtrate is purified on an XAD-II column to yield 0.044 g of sodium (3S,4R)-3-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-4-phenylacetoxy-2-oxoazetidine-1-sulfonate.

reactant | sodium (3S,4R)-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-4-phenylacetoxy-2-oxoazetidine-1-sulfonate | 0.10 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1OC(CC1=CC=CC=C1)=O)S(=O)(=O)[O-])=O)=NOC.[Na+]
reactant | sodium monomethyldithiocarbamate | 0.027 g | CSC(N)=S.[Na]
solvent | water | 7 ml | O | H2O
product | sodium (3S,4R)-3-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-4-phenylacetoxy-2-oxoazetidine-1-sulfonate | 0.044 g | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1OC(CC1=CC=CC=C1)=O)S(=O)(=O)[O-])=O)=NOC.[Na+] | InChI=1S/C17H17N5O8S2.Na/c1-29-21-12(10-8-31-17(18)19-10)14(24)20-13-15(25)22(32(26,27)28)16(13)30-11(23)7-9-5-3-2-4-6-9;/h2-6,8,13,16H,7H2,1H3,(H2,18,19)(H,20,24)(H,26,27,28);/q;+1/p-1/t13-,16-;/m1./s1
